US08372813B2
To a stirring solution of 3-methylene-cyclobutane carboxylic acid (1.0 g, 8.9 mmol) in THF (90 mL) was added NaN3 (2.0 g, 31.1 mmol), followed by tetrabutyl ammonium bromide (0.48 g, 1.5 mmol) and Zn(OTf)2 (0.1 g, 0.3 mmol), and the reaction mixture was heated to 40° C. Boc2O (2.1 g, 9.8 mmol) was then added at once, and the reaction was heated at 45° C. overnight. The reaction was then cooled to 0° C. and was quenched with 10% aq. NaNO2 (180 mL). The THF was evaporated and the aqueous layer was extracted with EtOAc (180 mL). The organic layer was washed with 5% aq. NaHCO3 (2×20 mL), brine (30 ml), dried over Na2SO4, filtered and concentrated to dryness to yield a crude, which was purified by flash chromatography (silica gel/hexanes:ethyl acetate: 0-90%) to yield the desired N-Boc-3-methylene-cyclobutanamine (0.57 g, 3.1 mmol, 34.9% yield): 1H NMR (250 MHz, CDCl3) δ 4.83 (s, 2 H), 4.79 (bs, 1 H), 4.05-4.23 (m, 1 H), 2.92-3.11 (m, 2 H), 2.50-2.65 (m, 2 H), 1.44 (s, 9 H).

reactant | 3-methylene-cyclobutane carboxylic acid | 8.9 mmol, 1.0 g | C=C1CC(C1)C(=O)O | C6H8O2
reactant | NaN3 | 31.1 mmol, 2.0 g | [N-]=[N+]=[N-].[Na+]
reactant | Boc2O | 9.8 mmol, 2.1 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 90 mL | C1CCOC1 | C4H8O
catalyst | tetrabutyl ammonium bromide | 1.5 mmol, 0.48 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | Zn(OTf)2 | 0.3 mmol, 0.1 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Zn+2]
product | N-Boc-3-methylene-cyclobutanamine | 3.1 mmol, 0.57 g, 34.9% yield | C(=O)(OC(C)(C)C)NC1CC(C1)=C | C10H17NO2
